US06503949B1
Resin Bound N-methyl-3-{3-(4-tert-butylphenyl)-3-[4-(2H-tetrazol-5-ylcarbamoyl)benzyl]-ureido}benzamide
To the above resin bound 3-{3-(4-tert-butylphenyl)-3-[4-(2H-tetrazol-5-ylcarbamoyl) benzyl]-ureido}benzoic acid pentafluorophenyl ester was added a solution of methylamine in THF (2M, 5 mL). The mixture was shaken at 25° C. overnight, filtered and washed with THF (2×10 mL), affording the resin bound title compound.

reactant | 3-{3-(4-tert-butylphenyl)-3-[4-(2H-tetrazol-5-ylcarbamoyl) benzyl]-ureido}benzoic acid pentafluorophenyl ester | FC1=C(C(=C(C(=C1OC(C1=CC(=CC=C1)NC(=O)N(CC1=CC=C(C=C1)C(NC=1N=NNN1)=O)C1=CC=C(C=C1)C(C)(C)C)=O)F)F)F)F | C33H26F5N7O4
reactant | methylamine | CN | CH5N
solvent | THF | 2M, 5 mL | C1CCOC1 | C4H8O
product | N-methyl-3-{3-(4-tert-butylphenyl)-3-[4-(2H-tetrazol-5-ylcarbamoyl)benzyl]-ureido}benzamide | CNC(C1=CC(=CC=C1)NC(=O)N(CC1=CC=C(C=C1)C(NC=1N=NNN1)=O)C1=CC=C(C=C1)C(C)(C)C)=O | C28H30N8O3
